US08349880B2
Step AH (1): 2-(4-Chlorophenyl)acetic acid (2.5 g, 14.65 mmol) was deprotonated with NaHMDS (1.0 M in THF, 29.3 mL, 29.3 mmol) and reacted with 1-chloro-4-iodobutane (1.80 mL, 14.7 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-(4-chlorophenyl)hexanoic acid (3.47 g, 59% yield). LC-MS (M−H)− 259.1.

reactant | 2-(4-Chlorophenyl)acetic acid | 14.65 mmol, 2.5 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | NaHMDS | 29.3 mmol, 1.0 M, 29.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-4-iodobutane | 14.7 mmol, 1.80 mL | ClCCCCI | C4H8ClI
product | 6-chloro-2-(4-chlorophenyl)hexanoic acid | 3.47 g, 59% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)Cl | C12H14Cl2O2
